US07476492B2
b. Synthesis of 1-Cyclopentylcyclopentyl methacrylate
To a 1-L 3-necked round bottom flask equipped with a 250-mL pressure equalizing addition funnel, a nitrogen inlet with thermocouple and an overhead stirrer was added 56 g (0.364 mol) of 1-cyclopentyl-1-cyclopentanol and 400 mL of anhydrous tetrahydrofuran. The addition funnel was charged with 250 mL (0.4 mol) of n-butyllithium (1.6M in hexane) which was then added to the cooled alcohol over 2 hours. The addition funnel was then charged with a solution of 41 g (0.39 mol) of freshly distilled methacryloyl chloride in 100 mL of dry tetrahydrofuran which was then added slowly with cooling over 1.5 hours. The reaction mixture was allowed to warm to room temperature with stirring overnight after which 100 mL of saturated sodium bicarbonate was carefully added with stirring. The mixture was stirred for 1 hour at which time it was diluted with 1 L of diethyl ether and the organics washed with water, brine and dried for 1 hour over anhydrous magnesium sulfate. Filtration and removal of the solvent at reduced pressure resulted in a light-colored oil which was eluted with hexane through a column of 600 g of silica gel. The UV active fractions were collected and the solvent removed at reduced pressure to yield 74 g (91%) of the title compound as a clear, colorless oil.

reactant | 1-cyclopentyl-1-cyclopentanol | 0.364 mol, 56 g | C1(CCCC1)C1(CCCC1)O | C10H18O
reactant | n-butyllithium | 0.4 mol, 1.6M, 250 mL | C(CCC)[Li]
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 1 L | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 1-Cyclopentylcyclopentyl methacrylate | 74 g, 91% | C(C(=C)C)(=O)OC1(CCCC1)C1CCCC1 | C14H22O2
